US08809352B2
To 7-benzyl-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol (0.47 g, 1.52 mmol) partially dissolved in methanol (20 mL) was added palladium hydroxide on carbon (70 mg, wet, 20% by weight dry basis). The reaction was stirred for 20 hours in a Parr shaker under a pressure of 50 psi hydrogen. The reaction was then filtered through a Celite plug, eluting with methanol (400 mL). The filtrate was concentrated in vacuo to yield 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol as a light beige solid (255 mg, 77% yield). 1H NMR (400 MHz, MeOD) δ ppm 4.09 (s, 2H), 3.48 (t, J=6.32 Hz, 2H), 2.78 (t, J=6.32 Hz, 2H).

reactant | 7-benzyl-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol | 1.52 mmol, 0.47 g | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)O)C(F)(F)F | C15H14F3N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 70 mg | [OH-].[OH-].[Pd+2]
product | 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol | 255 mg, 77% yield | FC(C=1N=C(C2=C(N1)CNCC2)O)(F)F | C8H8F3N3O
